US06610692B1
Step A: 2-(Pent-4-ynylamino)pyrimidine
A mixture of 2-chloropyrimidine (4.0 g, 35 mmol), 5-aminopent-2-yne (10.5 g, 88 mmol), triethylamine (12.3 mL, 88 mmol) in ethanol (50 mL) was heated in a sealed tube at 90° C. for 16 h. The mixture was cooled and evaporated in vaciio. The residue was taken up in ethyl acetate and was filtered through a plug of silica gel, eluting with ethyl acetate, and evaporated in vacuo to give the title compound:

reactant | 2-chloropyrimidine | 35 mmol, 4.0 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 5-aminopent-2-yne | 88 mmol, 10.5 g | NCCC#CC | C5H9N
reactant | triethylamine | 88 mmol, 12.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(Pent-4-ynylamino)pyrimidine | C(CCC#C)NC1=NC=CC=N1 | C9H11N3
